data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2957,3304,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N-:6][O+:7]=[N:8][C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[O:7][N:8]1[C:9](=[O:10])[NH:11][CH3:12],water,298.15,18.42322509259563,-41.510412406265935
1705,1886,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][CH-:20][C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:24](=[O:25])[NH:26][CH3:27])[NH:19][CH:20]2[C:21]([CH3:22])=[O:23],water,298.15,26.10248521388544,-3.991771008451615
2860,3178,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][NH:25][C:26](=[O:27])[C:28]([CH3:29])=[NH+:30][C-:31]([C:32](=[O:33])[NH:34][CH3:35])[C:36](=[O:37])[NH:38][CH3:39]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([NH:25][CH3:24])=[O:27])([CH3:29])[NH:30][C:31]2([C:32](=[O:33])[NH:34][CH3:35])[C:36](=[O:37])[NH:38][CH3:39],water,298.15,24.73830604860209,-30.27087599357076
640,700,[CH3:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[C:20]([CH3:21])[CH3:22].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:20]([CH3:21])([CH3:22])[N:18]([CH3:19])[C:15]2([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,34.070006404184426,0.6092109892785886
1681,1856,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N+:24]([CH3:25])[CH-:26][C:27]#[N:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:26]([C:27]#[N:28])[N:24]([CH3:25])[C:19]3([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][CH3:23],water,298.15,21.884731587590103,-40.585388430918776
1011,1101,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([CH3:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[C:21]3([CH3:22])[CH3:23],water,298.15,21.3355544312336,-49.02277293044465
1024,1117,[CH3:17][C:18](=[O:19])[C:20]#[N+:21][CH-:22][C:23]#[N:24].[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([O:9][CH3:10])([O:11][CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([O:9][CH3:10])([O:11][CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[CH:22]([C:23]#[N:24])[N:21]=[C:20]2[C:18]([CH3:17])=[O:19],water,298.15,15.08660224014612,-72.22961187079784
1576,1744,[CH3:15][O:16][C:17](=[O:18])[C-:19]([N+:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:21]=[N:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:22]([CH3:23])=[O:24],water,298.15,28.91103123679565,-21.846946536166143
138,154,[CH3:1][O:2]/[CH:3]=[CH:4]\[O:5][CH3:6].[CH3:7][C:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)=[N+:15]([CH3:16])[O-:17]>>[CH3:1][O:2][C@H:3]1[C@@H:4]([O:5][CH3:6])[O:17][N:15]([CH3:16])[C:8]1([CH3:7])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1,water,298.15,32.28642690489984,-1.3727123300404014
146,163,[CH3:7][NH:8][C:9](=[O:10])[N-:11][NH+:12]=[CH:13][C:14](=[O:15])[O:16][CH3:17].[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[CH:13]([C:14](=[O:15])[O:16][CH3:17])[NH:12][N:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,17.199575580726766,-45.38483724123712
1216,1325,[CH3:1][O:2]/[C:3]([Cl:4])=[C:5](/[Cl:6])[O:7][CH3:8].[CH3:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C@:3]1([Cl:4])[C@:5]([Cl:6])([O:7][CH3:8])[C:15]([C:16]#[N:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:13]([CH3:14])[CH:12]1[C:10]([CH3:9])=[O:11],water,298.15,29.34298962044004,-20.286324870750025
2244,2489,[CH3:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:18]([CH3:19])[C:14]2([C:12]([CH3:11])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,51.62031437781378,2.344837889590988
